US06596772B1
1-[2,3-Bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-propyl]-piperidine (55).
Using the same procedure as for example 54, a mixture of 3-piperidino-1,2-propanediol (40 mg, 0.25 mmol), sodium hydride (60%, 30 mg) and 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene (174 mg, 0.6 mmol) in acetonitrile (1 mL+0.6 mL) was heated to reflux for 18 hours, worked-up and purified on silica gel to give the title compound. MS +ve APCI 666 [M+1].

reactant | 3-piperidino-1,2-propanediol | 0.25 mmol, 40 mg | N1(CCCCC1)CC(CO)O | C8H17NO2
reactant | sodium hydride | 30 mg | [H-].[Na+]
reactant | 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene | 0.6 mmol, 174 mg | ClC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO4S
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 1-[2,3-Bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-propyl]-piperidine | [N+](=O)([O-])C1=C(OC(CN2CCCCC2)COC2=C(C=C(C=C2)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=CC(=C1)S(=O)(=O)C(F)(F)F | C22H21F6N3O10S2
